US07138425B2
b) 2-[2-Methyl-5-(benzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid
Prepared by the method of Example 1b), from 2-(3-amino-4-methylphenyl)benzoxazole (250 mg, 1.1 mmol) and 1,2,4-benzenetricarboxylic anhydride (214 mg, 1.1 mmol) the title compound was obtained. 375 mg (84%). 1H NMR (DMSO) δ 8.45(dd, 1H), 8.33(d, 2H), 8.23(dd, 1H), 8.12(d, 1H), 7.79(m, 2H), 7.68(d, 1H), 7.44(m, 2H). MS 397 m/z (M−H)−.

reactant | 2-(3-amino-4-methylphenyl)benzoxazole | 1.1 mmol, 250 mg | NC=1C=C(C=CC1C)C=1OC2=C(N1)C=CC=C2 | C14H12N2O
reactant | 1,2,4-benzenetricarboxylic anhydride | 1.1 mmol, 214 mg | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
product | 2-[2-Methyl-5-(benzoxazol-2-yl)phenyl]-2,3-dihydro-1,3-dioxo-1H-isoindole-5-carboxylic acid | CC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)N2C(C1=CC=C(C=C1C2=O)C(=O)O)=O | C23H14N2O5
